US08304557B2
N-{6-[3-(1,3-dihydro-2H-isoindol-2-yl)phenoxy]imidazo[1,2-a]pyridin-2-yl}cyclopropanecarboxamide
A mixture of N-[6-(3-aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (19.4 mg, 0.063 mmol), 1,2-bis(chloromethyl)benzene (13.5 mg, 0.077 mmol) and N,N-dimethylformamide (2.0 mL) was stirred at 50° C. for 14 hr. Ethyl acetate was added to the reaction mixture, and the mixture was washed with aqueous sodium hydrogen carbonate solution and saturated brine. The organic layer was concentrated, and the residue was purified by preparative HPLC to give the title compound (8.8 mg, 34%).

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.063 mmol, 19.4 mg | NC=1C=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=CC1 | C17H16N4O2
reactant | 1,2-bis(chloromethyl)benzene | 0.077 mmol, 13.5 mg | ClCC1=C(C=CC=C1)CCl | C8H8Cl2
reactant | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{6-[3-(1,3-dihydro-2H-isoindol-2-yl)phenoxy]imidazo[1,2-a]pyridin-2-yl}cyclopropanecarboxamide | 8.8 mg, 34% | C1N(CC2=CC=CC=C12)C=1C=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=CC1 | C25H22N4O2
